2175-01-20 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2175-1-19**] 07:39 PM
   start time is approximate
 BLOOD CULTURED - At [**2175-1-19**] 08:00 PM
 PAN CULTURE - At [**2175-1-19**] 10:30 PM
 EKG - At [**2175-1-19**] 10:49 PM
 ARTERIAL LINE - START [**2175-1-20**] 12:28 AM
 FEVER - 101.3
F - [**2175-1-19**] 07:47 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2175-1-19**] 11:08 PM
   Vancomycin - [**2175-1-20**] 12:09 AM
   Ampicillin - [**2175-1-20**] 12:09 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-1-20**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.5
C (99.5
   HR: 97 (97 - 112) bpm
   BP: 106/61(75) {100/61(75) - 113/67(80)} mmHg
   RR: 16 (16 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    389 mL
                                                                  1,865 mL
   PO:
             TF:
   IVF:
                                                                    389 mL
                                                                  1,865 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    520 mL
   Urine:
                                                                    910 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -521 mL
                                                                  1,345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/45/238/26/2
   Ve: 7.3 L/min
   PaO2 / FiO2: 476
   Physical Examination
   General Appearance: intubated, sedated, but responsive to voice, does
   not follow commands, withdraws to painful stimuli
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, ET/OG tubes in place
   Lymphatic: Cervical WNL, Supraclavicular WNL, R axillary LN approx 1cm
   in size
   Cardiovascular: RRR S1S2 no m/r/g
   Peripheral Vascular: warm, well perfused 2+dp pulses
   Respiratory / Chest: clear bilaterally while supine. Notable is mild
   swelling in L chest (breast) no erythema.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no cyanosis, no edema, no rashes
   Neurologic: Sedated. Opens eyes to voice but does not follow commands,
   Responds to: Noxious stimuli, Withdraws all extremities to painful
   stimuli, R>L. Fatiguable clonus in feet bilat, R>L. plantar downgoing
   bilat. 2+ relexes symmetric throughout.
   Labs / Radiology
   379 K/uL
   12.1 g/dL
   116 mg/dL
   1.7 mg/dL
   26 mEq/L
   4.5 mEq/L
   10 mg/dL
   105 mEq/L
   138 mEq/L
   32.9 %
   16.7 K/uL
        [image002.jpg]
   TSH 0.81   HIV pnd  blood cx pnd    sputum  GPC in pairs   urine cx
   pend
                            [**2175-1-19**]  07:58 PM
                            [**2175-1-20**]  03:29 AM
                            [**2175-1-20**]  03:30 AM
   WBC
   20.0
   16.7
   Hct
   37.0
   32.9
   Plt
   437
   379
   Cr
   1.7
   1.7
   TCO2
   29
   Glucose
   140
   116
   Other labs: PT / PTT / INR:15.8/28.6/1.4, ALT / AST:19/22, Alk Phos / T
   Bili:66/0.4, Differential-Neuts:89.3 %, Lymph:6.2 %, Mono:3.8 %,
   Eos:0.7 %, Lactic Acid:0.9 mmol/L, Albumin:3.9 g/dL, LDH:356 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:4.2 mg/dL
   OSH labs: DFA negative, crypto Ag negative, RPR negative, HIV pending,
   HSV PCR pending
   Assessment and Plan
   36 year old male without significant past medical history with fevers,
   altered mental status, and seizures.
   .
   # Fevers: Persistently high fevers in setting of myalgias, sore throat
   raises suspicion for viral prodrome and infection. Altered mental
   status and seizure x1 also causes concern for meningitis vs.
   encephalitis. The patient had LP at OSH but per neuro service would be
   useful to tap again and run for various viral serologies and infectious
   labs. CSF at OSH not consistent with bacterial infection. CXR appears
   clear w/question of haziness in LLL. Clinically lungs are clear on exam
   but noted this AM was increased sputum production, and sample was sent
   for culture. Given patient
s history he is at increased risk for HIV
   (study pending at OSH). In addition to infectious causes (including
   HIV, EBV, HSV, Cryptococcus, etc) etiologies such as vasculitis and
   malignancy should be considered.
   - MRI/MRA to further work up anatomy and ? vasculitis
   - cont acyclovir, vancomycin, ampicillin, ceftriaxone for infectious
   etiology
   - repeat LP in am for cell count, protein, glucose, HSV PCR, HIV, Lyme,
   west [**Doctor First Name **] PCR, enterovirus PCR
   - f/u stool cultures
   - f/u HIV labs
   -f/u ID and neurology recommendations
   - f/u blood cultures, urine culture and sputum cultures
   .
   # Respiratory failure: intubated in the setting of seizure with
   metabolic acidosis.  CXR without significant pulmonary pathology
   although increasing sputum production.
   - RSBI, SBT qam
   - albuterol/atrovent nebs
   -if increasing secretions would hold off on extubation
   .
   # Seizures: Consider toxic-metabolic vs infectious etiology vs.
   structural abdormality of focus. Ct negative at outside hospital. MRI
   to be done today. Per neurology will start keppra and monitor for
   seizure activity with EEG.
   - check MRI
   - keppra
   - propofol drip for sedation
   - ativan prn for seizures
   -monitor and replete electrolytes
   -tox screen negative except for marijuana
   .
   # Altered mental status: given high fevers, altered mental status, and
   results of LP, suspect encephalitis.  At OSH had no other evidence of
   infection.  Tox + for cannaboids but unlikely to cause persistent
   altered MS. Also noted by family was change in behavior from his
   baseline since his return from overseas. Will continue to work up for
   toxic/metabolic and infectious etiologies.
   - fever treatment as above
   - f/u neuro consult
   - renal failure treatment as below
   .
   # ARF: At OSH, initial Cr 1.5 and improved this am to 1.2.  Now again
   elevated to 1.7.  Presumably had normal renal function prior.  Initial
   ARF likely due to dehydration due to poor po intake and increased
   insensible losses from fevers. Also suspect acyclovir may have caused
   intrinsic renal damage.
   - aggressive IVF
   - renally dose meds
   - trend Cr
   -spin urine if ? acyclovir damage
   .
   # Sinus tachycardia: likely in the setting of fever and infection.
   Possible contribution of dehydration. Much better this morning.
   - IVF as above
   - monitor fever curve
   - ID treatment as above
   .
   # asthma: alb/atrovent nebs
   .
   # FEN: NPO for now, replete electrolytes prn, nutrition recs if
   prolonged intubation.
   -monitor INR (1.5), may need vitamin K if concern for bleed
   .
   # PPx: heparin sc. PPI while on vent. bowel regimen
   .
   # ACCESS: PIV x 3, aline
   .
   # CODE: FULL. Confirmed with mother, HCP
   .
   # COMM: [**Name (NI) 1259**] [**Name (NI) 4244**] (mother) [**Telephone/Fax (1) 4247**], (c) [**Telephone/Fax (1) 4248**],
   girlfriend [**Name (NI) **] [**Telephone/Fax (1) 4249**]
   .
   # DISP: ICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-1-19**] 07:40 PM
   18 Gauge - [**2175-1-19**] 08:00 PM
   Arterial Line - [**2175-1-20**] 12:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-01-21 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2175-1-20**] 02:00 PM
 LUMBAR PUNCTURE - At [**2175-1-20**] 04:30 PM
 CSF CULTURE - At [**2175-1-20**] 05:00 PM
 ARTERIAL LINE - STOP [**2175-1-20**] 05:50 PM
 MAGNETIC RESONANCE IMAGING - At [**2175-1-21**] 01:03 AM
   .
   -secretions remain high
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2175-1-20**] 10:00 AM
   Acyclovir - [**2175-1-20**] 10:00 PM
   Vancomycin - [**2175-1-20**] 10:15 PM
   Ampicillin - [**2175-1-21**] 12:33 AM
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-1-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-1-21**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.4
C (97.5
   HR: 86 (78 - 100) bpm
   BP: 128/82(91) {112/62(74) - 141/85(96)} mmHg
   RR: 9 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  8,913 mL
                                                                    317 mL
   PO:
             TF:
   IVF:
                                                                  8,703 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  3,192 mL
                                                                    650 mL
   Urine:
                                                                  3,192 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,721 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 8 L/min
   Physical Examination
   General Appearance: intubated, sedated, but responsive to voice, does
   not follow commands, withdraws to painful stimuli
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, ET/OG tubes in place
   Lymphatic: Cervical WNL, Supraclavicular WNL, R axillary LN approx 1cm
   in size
   Cardiovascular: RRR S1S2 no m/r/g
   Peripheral Vascular: warm, well perfused 2+dp pulses
   Respiratory / Chest: clear bilaterally while supine. Notable is mild
   swelling in L chest (breast) no erythema.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no cyanosis, no edema, no rashes
   Neurologic: Sedated. Opens eyes to voice but does not follow commands,
   Responds to: Noxious stimuli, Withdraws all extremities to painful
   stimuli, R>L. Fatiguable clonus in feet bilat, R>L. plantar downgoing
   bilat. 2+ relexes symmetric throughout.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   10.9 g/dL
   103 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   7 mg/dL
   108 mEq/L
   142 mEq/L
   31.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2175-1-19**]  07:58 PM
                            [**2175-1-20**]  03:29 AM
                            [**2175-1-20**]  03:30 AM
                            [**2175-1-20**]  03:58 PM
                            [**2175-1-21**]  04:13 AM
   WBC
   20.0
   16.7
   8.9
   Hct
   37.0
   32.9
   31.3
   Plt
   437
   379
   306
   Cr
   1.7
   1.7
   1.4
   1.1
   TCO2
   29
   Glucose
   140
   116
   122
   103
   Other labs: PT / PTT / INR:14.7/30.3/1.3, ALT / AST:19/22, Alk Phos / T
   Bili:66/0.4, Differential-Neuts:79.9 %, Lymph:15.2 %, Mono:3.2 %,
   Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:3.9 g/dL, LDH:356 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   36 year old male without significant past medical history with fevers,
   altered mental status, and seizures.
   .
   # Fevers: Persistently high fevers in setting of myalgias, sore throat
   raises suspicion for viral prodrome and infection. Altered mental
   status and seizure x1 also causes concern for meningitis vs.
   encephalitis. The patient had LP at OSH but per neuro service would be
   useful to tap again and run for various viral serologies and infectious
   labs. CSF at OSH not consistent with bacterial infection. CXR appears
   clear w/question of haziness in LLL. Clinically lungs are clear on exam
   but noted this AM was increased sputum production, and sample was sent
   for culture. Given patient
s history he is at increased risk for HIV
   (study pending at OSH). In addition to infectious causes (including
   HIV, EBV, HSV, Cryptococcus, etc) etiologies such as vasculitis and
   malignancy should be considered.
   - MRI/MRA to further work up anatomy and ? vasculitis
   - cont acyclovir, vancomycin, ampicillin, ceftriaxone for infectious
   etiology
   - repeat LP in am for cell count, protein, glucose, HSV PCR, HIV, Lyme,
   west [**Doctor First Name **] PCR, enterovirus PCR
   - f/u stool cultures
   - f/u HIV labs
   -f/u ID and neurology recommendations
   - f/u blood cultures, urine culture and sputum cultures
   .
   # Respiratory failure: intubated in the setting of seizure with
   metabolic acidosis.  CXR without significant pulmonary pathology
   although increasing sputum production.
   - RSBI, SBT qam
   - albuterol/atrovent nebs
   -if increasing secretions would hold off on extubation
   .
   # Seizures: Consider toxic-metabolic vs infectious etiology vs.
   structural abdormality of focus. Ct negative at outside hospital. MRI
   to be done today. Per neurology will start keppra and monitor for
   seizure activity with EEG.
   - check MRI
   - keppra
   - propofol drip for sedation
   - ativan prn for seizures
   -monitor and replete electrolytes
   -tox screen negative except for marijuana
   .
   # Altered mental status: given high fevers, altered mental status, and
   results of LP, suspect encephalitis.  At OSH had no other evidence of
   infection.  Tox + for cannaboids but unlikely to cause persistent
   altered MS. Also noted by family was change in behavior from his
   baseline since his return from overseas. Will continue to work up for
   toxic/metabolic and infectious etiologies.
   - fever treatment as above
   - f/u neuro consult
   - renal failure treatment as below
   .
   # ARF: At OSH, initial Cr 1.5 and improved this am to 1.2.  Now again
   elevated to 1.7.  Presumably had normal renal function prior.  Initial
   ARF likely due to dehydration due to poor po intake and increased
   insensible losses from fevers. Also suspect acyclovir may have caused
   intrinsic renal damage.
   - aggressive IVF
   - renally dose meds
   - trend Cr
   -spin urine if ? acyclovir damage
   .
   # Sinus tachycardia: likely in the setting of fever and infection.
   Possible contribution of dehydration. Much better this morning.
   - IVF as above
   - monitor fever curve
   - ID treatment as above
   .
   # asthma: alb/atrovent nebs
   .
   # FEN: NPO for now, replete electrolytes prn, nutrition recs if
   prolonged intubation.
   -monitor INR (1.5), may need vitamin K if concern for bleed
   .
   # PPx: heparin sc. PPI while on vent. bowel regimen
   .
   # ACCESS: PIV x 3, aline
   .
   # CODE: FULL. Confirmed with mother, HCP
   .
   # COMM: [**Name (NI) 1259**] [**Name (NI) 4244**] (mother) [**Telephone/Fax (1) 4247**], (c) [**Telephone/Fax (1) 4248**],
   girlfriend [**Name (NI) **] [**Telephone/Fax (1) 4249**]
   .
   # DISP: ICU
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-1-19**] 07:40 PM
   18 Gauge - [**2175-1-19**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2175-01-22 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2175-1-21**] 10:00 AM
   Pt attempted to get out of bed and pulled on foley catheter.  This RN
   removed foley b/c pt c/o bladder spasm/pain.
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2175-1-21**] 12:00 PM
   Pt pulled out [**Year (4 digits) 3173**]
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2175-1-21**] 05:00 PM
   Pt pulled out [**Year (4 digits) 3173**], replaced w/20 gauge
   - extubated [**1-21**] in AM
   - MRI/MRA - normal
   - remains on Acyclovir, d/c'd other antibitoics
   - ID recs - cont Acyclovir, awaiting MRI
   - Neuro - continue Keppra, defer to ID
   - ADAT
   - no issues overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2175-1-21**] 06:26 AM
   Vancomycin - [**2175-1-21**] 08:30 AM
   Ceftriaxone - [**2175-1-21**] 10:30 AM
   Acyclovir - [**2175-1-21**] 10:16 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2175-1-21**] 07:40 PM
   Heparin Sodium (Prophylaxis) - [**2175-1-21**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-1-22**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 86 (70 - 103) bpm
   BP: 137/86(98) {124/41(25) - 159/101(107)} mmHg
   RR: 28 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,384 mL
                                                                    563 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  2,884 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                  3,810 mL
                                                                    550 mL
   Urine:
                                                                  3,810 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -426 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 198 (198 - 198) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   FiO2: 40%
   SpO2: 96%
   ABG: ///31/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: alert and oriented, pleasant and interactive
   Eyes / Conjunctiva: PERRL, anicteric,
   Head, Ears, Nose, Throat: Normocephalic, MMM
   Cardiovascular: RRR S1S2 no m/r/g
   Peripheral Vascular: warm, well perfused 2+dp pulses
   Respiratory / Chest: clear bilaterally.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no cyanosis, no edema, no rashes
   Neurologic: AOX3, CN II-XII intact, sensation intact, 5/5 strength in
   upper and lower extremities,
   [**Year (4 digits) 582**] / Radiology
   395 K/uL
   12.4 g/dL
   111 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.9 mEq/L
   6 mg/dL
   104 mEq/L
   141 mEq/L
   35.2 %
   8.1 K/uL
        [image002.jpg]
                            [**2175-1-19**]  07:58 PM
                            [**2175-1-20**]  03:29 AM
                            [**2175-1-20**]  03:30 AM
                            [**2175-1-20**]  03:58 PM
                            [**2175-1-21**]  04:13 AM
                            [**2175-1-22**]  04:26 AM
   WBC
   20.0
   16.7
   8.9
   8.1
   Hct
   37.0
   32.9
   31.3
   35.2
   Plt
   437
   379
   306
   395
   Cr
   1.7
   1.7
   1.4
   1.1
   1.0
   TCO2
   29
   Glucose
   140
   116
   122
   103
   111
   Other [**Year (4 digits) **]: PT / PTT / INR:14.1/29.2/1.2, ALT / AST:19/22, Alk Phos / T
   Bili:66/0.4, Differential-Neuts:79.9 %, Lymph:15.2 %, Mono:3.2 %,
   Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:3.9 g/dL, LDH:356 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   36 year old male without significant past medical history with fevers,
   altered mental status, and seizures.
   .
   # Fevers: Has been afebrile for almost 24hours, low grade temp
   yesterday afternoon. Patient has several [**Year (4 digits) **] pending but at this point
   bacterial meningitis has been ruled out and antibiotics have been
   d/c
d. Acyclovir needs to be continued until HSV [**Year (4 digits) **] return. This is
   likely viral in etiology. MRI/MRA were negative, CSF negative to date,
   crypto Ag neg, HIV ag negative.
   - MRI/MRA negative
   - cont acyclovir pending HSV
   - f/u ID recs
   - f/u stool cultures
   - f/u blood cultures, urine culture and sputum cultures
   -currently pending: WNV, EEE, VDRL, HSV, enterovirus, stool cx, RPR,
   [**Doctor First Name **], ANCA
   .
   # Respiratory failure: extubated and doing well, tolerating po
   .
   # Seizures: has not had seizure-like activity since admission. Per
   neuro, may need to stay on keppra for the time being.
   - keppra
   -f/u neuro recs and if there is endpoint to keppra treatment
   -daily neuro exam
   .
   # Altered mental status: significantly improved over last two days,
   likely due to fevers, infection as well as sedation.
   -continue to monitor
   .
   # ARF: Improved with IV hydration. Likely a combination of pre-renal
   dehydration and acyclovir therapy.
   - IVF bolus w/acyclovir
   - renally dose meds
   - trend Cr
   .
   # Sinus tachycardia: likely in the setting of fever and infection.
   Possible contribution of dehydration. Improved
   - IVF as above
   - monitor fever curve
   .
   # asthma: alb/atrovent nebs
   .
   # FEN: ADAT, replete electrolytes prn
   .
   # PPx: if ambulating/moving no need for heparin sc. PPI while on vent.
   d/c bowel regimen given diarrhea
   .
   # ACCESS: [**Last Name (LF) 3173**], [**First Name3 (LF) **]
   .
   # CODE: FULL. Confirmed with mother, HCP
   .
   # COMM: [**Name (NI) 1259**] [**Name (NI) 4244**] (mother) [**Telephone/Fax (1) 4247**], (c) [**Telephone/Fax (1) 4248**],
   girlfriend [**Name (NI) **] [**Telephone/Fax (1) 4249**]
   .
   # DISP: c/o to medical floor
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2175-1-21**] 05:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 36 year old male without significant past
   medical history presented initially to OSH [**1-18**], transferred to [**Hospital1 19**]
   on [**1-19**] with fevers, altered mental status, seizures and respiratory
   failure. W/u appears most c/w viral encephalopathy.  ID and neuro
   following.  Extubated successfully yesterday.  Remains on acyclovir.
   Confusion improving.
   EXAM: TM 100.7 [**1-20**]
AF 97.4 137/86 HR 78  RR 12 96% RA
   WDWN M, alert and oriented, remains confused though improved from
   yesterday, no JVD, CTA, RR, benign abd, no edema, nonfocal neuro
   [**Month/Year (2) **]: WBC 8.1 Hct 35, inr 1.2  K 3.9 cr 1.0 na 141
   HIV viral load neg
   CSF--crypto ag neg, HSV PCR pending, viral [**Month/Year (2) **] pending,
   [**Doctor First Name **]/anca pending
   Blood cx pending
   MRI brain-neg
   A/P: has made significant progress. Continues to improve from mental
   status standpoint but remains slightly confused.  Fever curve has
   improved now af since yesterday afternoon.  WBC ct normalized. No
   evidence of pna on cxr.  Remains on acyclovir w/ bacterial CSF coverage
   d/c
d yesterday.  Additional viral work-up remains pending. Continuing
   keppra for szs prophy given increased risk in setting of viral
   process/encephalitis. ARF (? component related to acyclovir) has
   resolved and cr remains stable with good u/o.  Will encourgae PO
   hydration as remains on acyclovir.  Had small amts diarrhea likely from
   bowel reg--d/c colace--if persists would check C diff.  Consult PT.
   Stable for floor transfer.
   Time spent: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2175-1-22**] 02:27 PM ------